US03993658
When equivalent amounts of 4-(3,4-dimethoxyphenyl)-4,5,6,7-tetrahydro-1,3-diiminoisoindoline and 2-(o-methoxyanilino)-4-imino-2-thiazoline hydrochloride are substituted for the 4,5,6,7-tetrahydro-1,3-diiminoisoindoline and 2,4-diiminothiazolidine hydrochloride respectively, in the procedure described in Example 10, part A above, there is obtained as the product 1-imino-4-(3,4-dimethoxyphenyl)-4,5,6,7-tetrahydro-3-[2-(o-methoxyanilino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride.

reactant | 4-(3,4-dimethoxyphenyl)-4,5,6,7-tetrahydro-1,3-diiminoisoindoline | COC=1C=C(C=CC1OC)C1C=2C(NC(C2CCC1)=N)=N | C16H19N3O2
reactant | 2-(o-methoxyanilino)-4-imino-2-thiazoline hydrochloride | Cl.COC1=C(NC=2SCC(N2)=N)C=CC=C1
reactant | 4,5,6,7-tetrahydro-1,3-diiminoisoindoline | N=C1NC(C=2CCCCC12)=N | C8H11N3
reactant | 2,4-diiminothiazolidine hydrochloride | Cl.N=C1SCC(N1)=N
product | 1-imino-4-(3,4-dimethoxyphenyl)-4,5,6,7-tetrahydro-3-[2-(o-methoxyanilino)-4-imino-2-thiazolin-5-ylidene]isoindoline hydrochloride | Cl.N=C1NC(C=2C(CCCC12)C1=CC(=C(C=C1)OC)OC)=C1C(N=C(S1)NC1=C(C=CC=C1)OC)=N | InChI=1S/C26H27N5O3S.ClH/c1-32-18-10-5-4-9-17(18)29-26-31-25(28)23(35-26)22-21-15(7-6-8-16(21)24(27)30-22)14-11-12-19(33-2)20(13-14)34-3;/h4-5,9-13,15H,6-8H2,1-3H3,(H2,27,30)(H2,28,29,31);1H
